US09359359B2
4,4,4-trifluorobutyl methanesulfonate
To a solution of 4,4,4-trifluorobutan-1-ol (100 mg, 83 mmol) in dry DCM (2 mL) was added methanesulfonyl chloride (107.3 mg, 72 mmol) and then by TEA (158 mg, 216 mmol) at 0° C. The reaction was stirred at room temperature for 1 h. The reaction was partitioned between ethyl acetate and water. The organic phase was washed with brine, dried over sodium sulfate, filtered and concentrated to give a yellow oil product (50 mg, 31.1% yield), which was used without purification. Product tlc [petroleum ether/ethyl acetate (3:1) Rf 0.4]

reactant | 4,4,4-trifluorobutan-1-ol | 83 mmol, 100 mg | FC(CCCO)(F)F | C4H7F3O
reactant | methanesulfonyl chloride | 72 mmol, 107.3 mg | CS(=O)(=O)Cl | CH3ClO2S
solvent | DCM | 2 mL | C(Cl)Cl | CH2Cl2
product | 4,4,4-trifluorobutyl methanesulfonate | 50 mg, 31.1% yield | CS(=O)(=O)OCCCC(F)(F)F | C5H9F3O3S
